US04617314
To a solution of 5 g of 2-methyl-5-sulfamoyl-2,3-dihydrobenzofuran-7-carboxylic acid in a mixed solvent of 50 ml of dimethylformamide and 50 ml of acetone is added 6.5 ml of triethylamine and the solution is stirred. Under cooling at 15°-18° C. 2.2 g of ethyl chlorocarbonate is added dropwise for 10 minutes and the whole is stirred at room temperature for 40 minutes. Then, 3.3 of 1-propyl-2-aminomethylpyrrolidine is added and the reactant is stirred at room temperature for 40 minutes. After it is allowed to stand for 19 hours, excess triethylamine and acetone are distilled off and the resulting residue is slowly poured into 400 ml of water with stirring. Under ice-cooling, crystals are precipitated thoroughly and collected by suction filtration. The crystals are washed with water and dried. The filtrate, aqueous layer is further extracted with chloroform three times, and the extract chloroform layer is washed with aqueous sodium bicarbonate solution and water and dried. The chloroform is distilled off under reduced pressure and to the residue obtained is added isopropanol. Crystals are deposited and collected by suction filtration. Both the crude crystals are put together and recrystallized from isopropanol/methanol (1/1) to give crystals of N-(1-propyl-2-pyrrolidinylmethyl)-2-methyl-5-sulfamoyl-2,3-dihydrobenzofuran-7-carboxamide, m.p. 177°-180° C.

reactant | 2-methyl-5-sulfamoyl-2,3-dihydrobenzofuran-7-carboxylic acid | 5 g | CC1OC2=C(C1)C=C(C=C2C(=O)O)S(N)(=O)=O | C10H11NO5S
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | ethyl chlorocarbonate | 2.2 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | 1-propyl-2-aminomethylpyrrolidine | C(CC)N1C(CCC1)CN | C8H18N2
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | triethylamine | 6.5 ml | C(C)N(CC)CC | C6H15N
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | N-(1-propyl-2-pyrrolidinylmethyl)-2-methyl-5-sulfamoyl-2,3-dihydrobenzofuran-7-carboxamide | C(CC)N1C(CCC1)CNC(=O)C1=CC(=CC=2CC(OC21)C)S(N)(=O)=O | C18H27N3O4S
